US04399134
A solution of 145 g of 2-bromo-4-fluoro-5-morpholinoaniline in 1 l of methylene chloride and the solution was cooled to a temperature of not higher than -50° C. on a dry ice-acetone bath. At the same temperature as above 60 g of tert-butyl hypochlorite was added dropwise to the solution during which operation the reaction system changed from heterogeneous mixture to homogeneous solution. Then, 67 g of methylthio-2-propanone was added dropwise to the solution and the mixture was reacted at the same temperature as above for 2 hours followed by adding dropwise 80 ml of triethylamine. After completion of addition, the temperature of the mixture was elevated slowly to room temperature. After room temperature was attained 1 l of water was added to separate the methylene chloride layer which then was dried over sodium sulfate and concentrated under reduced pressure to give 150 g of 2-methyl-3-methylthio-5-fluoro-4-morpholino-7-bromoindole.

reactant | 2-bromo-4-fluoro-5-morpholinoaniline | 145 g | BrC1=C(N)C=C(C(=C1)F)N1CCOCC1 | C10H12BrFN2O
reactant | tert-butyl hypochlorite | above 60 g | ClOC(C)(C)C | C4H9ClO
reactant | methylthio-2-propanone | 67 g | CSCC(C)=O | C4H8OS
reactant | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
solvent | water | 1 l | O | H2O
product | 2-methyl-3-methylthio-5-fluoro-4-morpholino-7-bromoindole | 150 g | CC=1NC2=C(C=C(C(=C2C1SC)N1CCOCC1)F)Br | C14H16BrFN2OS
